US07125901B2
N-{2-[4-(2-Amino-1,3-thiazol-4-yl)phenyl]ethyl}acetamide (0.6 g) was dissolved in ethanol (10 mL) and hydrochloric acid concentrate (10 mL). The mixture was refluxed for 5 hours. The solvent was evaporated in vacuo. The residue was washed with ethyl ether to give 4-[4-(2-aminoethyl)phenyl]-1,3-thiazol-2-amine dihydrochrolide (0.5 g, 84.6%).

reactant | N-{2-[4-(2-Amino-1,3-thiazol-4-yl)phenyl]ethyl}acetamide | 0.6 g | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(C)=O | C13H15N3OS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-[4-(2-aminoethyl)phenyl]-1,3-thiazol-2-amine | NCCC1=CC=C(C=C1)C=1N=C(SC1)N | C11H13N3S
